US07504401B2
To 0.20 g of (3-amino-5-bromo-phenyl)-pyridin-3-yl-methanone (0.72 mmol) in 10 mL of dichloroethane was added 0.25 mL of diisopropylethylamine and 0.065 mL of propionyl chloride. The reaction was stirred 1 h at ambient temperature, then poured into saturated aqueous sodium bicarbonate. The phases were separated and the aqueous phase was washed once with methylene chloride, dried over sodium sulfate, filtered and concentrated to give 0.24 g (quantitative yield) of N-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-propionamide.

reactant | (3-amino-5-bromo-phenyl)-pyridin-3-yl-methanone | 0.72 mmol, 0.20 g | NC=1C=C(C=C(C1)Br)C(=O)C=1C=NC=CC1 | C12H9BrN2O
reactant | diisopropylethylamine | 0.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propionyl chloride | 0.065 mL | C(CC)(=O)Cl | C3H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | N-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-propionamide | 0.24 g, quantitative yield | BrC=1C=C(C=C(C1)C(=O)C=1C=NC=CC1)NC(CC)=O | C15H13BrN2O2
